US09428508B2
To a solution of 2-nitrobenzene-1-sulfonyl chloride (22.1 g, 100 mol) in dichloromethane (500 mL) at 0° C. was added triethylamine (14 g, 138.6 mol) and cyclopentanamine (9 g, 105.9 mmol) in several portions over 10-15 minutes. The reaction mixture was stirred at room temperature for 4 hours, concentrated and purified by silica gel chromatography to afford the product N-cyclopentyl-2-nitrobenzenesulfonamide (23 g, yield 85.2%). 1H NMR (400 MHz, CDCl3) δ ppm 8.16-8.18 (m, 1H), 7.84-7.87 (m, 1H), 7.40-7.78 (m, 2H), 5.25-5.27 (d, 1H, J=7.6 Hz), 3.76-3.81 (m, 1H), 1.79-1.87 (m, 2H), 1.62-1.70 (m, 2H), 1.39-1.58 (m, 4H).

reactant | 2-nitrobenzene-1-sulfonyl chloride | 100 mol, 22.1 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 138.6 mol, 14 g | C(C)N(CC)CC | C6H15N
reactant | cyclopentanamine | 105.9 mmol, 9 g | C1(CCCC1)N | C5H11N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-cyclopentyl-2-nitrobenzenesulfonamide | 23 g, yield 85.2% | C1(CCCC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C11H14N2O4S
